US04686302
A solution of 80.7 g of acrylonitrile and 5.3 g of copper(II) 2-ethylhexanoate in 250 g or o-xylene was heated to the boil (97° C.), after which 151.5 g of 99% pure alpha-nonylacrolein oxime were added dropwise in the course of 15 minutes, the temperature increasing to 115° C. during the addition. When the addition was complete, refluxing was continued for a further 10 minutes, after which the reaction mixture was cooled to -8° C. and the precipitated acrylamide was filtered off under suction. Fractional distillation of the mother liquor gave 121 g (89%) of alpha-nonylacrylonitrile of boiling point 122°-124° C./ 12 mbar.

reactant | acrylonitrile | 80.7 g | C(C=C)#N | C3H3N
reactant | alpha-nonylacrolein oxime | 151.5 g | C(CCCCCCCC)C(C=C)=NO | C12H23NO
reactant | o-xylene | CC=1C=CC=CC1C | C8H10
catalyst | copper(II) 2-ethylhexanoate | 5.3 g | C(C)C(C(=O)[O-])CCCC.[Cu+2].C(C)C(C(=O)[O-])CCCC
product | alpha-nonylacrylonitrile | 121 g, 89% | C(CCCCCCCC)C(C#N)=C | C12H21N
